US06515179B2
2-Nitrobenzenesulfonyl chloride (2.50 g) was added to a methylene chloride solution (30 ml) containing benzhydrylamine (1.87 g) and triethylamine (1.58 g) under ice cooling, followed by stirring for 3.3 hours under ice cooling and for 68.7 hours at room temperature. Water (40 ml), 6 N hydrochloric acid (2 ml) and methylene chloride (10 ml) were added to the reaction mixture, followed by extraction and solution separation, and the aqueous layer was extracted again with methylene chloride (10 ml). The resulting extract was dried over sodium sulfate, filtered, concentrated and further dissolved again in ethyl acetate (70 ml), followed by washing with water (20 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and dried under vacuum to obtain N-(2-nitrobenzenesulfonyl)benzhydrylamine (3.71 g; yield: 98.7%).

reactant | 2-Nitrobenzenesulfonyl chloride | 2.50 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | benzhydrylamine | 1.87 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | hydrochloric acid | 6 N, 2 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 40 ml | O | H2O
solvent | triethylamine | 1.58 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(2-nitrobenzenesulfonyl)benzhydrylamine | 3.71 g, yield: 98.7% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O4S
